US03941825
In a similar manner the reaction of 1-amino-3-(4-bromobenzylideneamino)guanidine methosulfate with 4-chlorobenzaldehyde gives the methosulfate salt of the subject compound. The reaction of 1-amino-3-(4-cyanobenzylideneamino)guanidine hydroiodide with 4-chlorobenzaldehyde gives 1-(4-chlorobenzylideneamino)-3-(4-cyanobenzylideneamino)guanidine hydroiodide; the reaction of 1-amino-3-(4-chlorobenzylideneamino)guanidine hydrochloride with 4-cyanobenzaldehyde affords the corresponding hydrochloride salt which melts at 297°-298°C. The reaction of 1-amino-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide and 4-chlorobenzaldehyde gives 1-94-chlorobenzylideneamino)-3-(3,4-dichlorobenzylidenamino)guanidine hydrobromide; the reaction of 1-amino-3-(4-chlorobenzylideneamino)guanidine hydrochloride with 3,4-dichlorobenzaldehyde gives the corresponding hydrochloride salt which melts at 288°C.

reactant | 1-amino-3-(3,4-dichlorobenzylideneamino)guanidine hydrobromide | Br.NNC(=N)NN=CC1=CC(=C(C=C1)Cl)Cl
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 3-(3,4-dichlorobenzylidenamino)guanidine hydrobromide | Br.ClC=1C=C(C=NNC(N)=N)C=CC1Cl | InChI=1S/C8H8Cl2N4.BrH/c9-6-2-1-5(3-7(6)10)4-13-14-8(11)12;/h1-4H,(H4,11,12,14);1H
